US06890947B2
In analogy to the procedure described in preparation 5a), 4-methyl-1H-indole-5-carbonitrile was reacted with sodium hypophosphite monohydrate and Raney-Nickel in acetic acid/pyridine to give 4-methyl-1H-indole-5-carbaldehyde as light yellow solid.

reactant | 4-methyl-1H-indole-5-carbonitrile | CC1=C2C=CNC2=CC=C1C#N | C10H8N2
reactant | sodium hypophosphite monohydrate | O.[PH2](=O)[O-].[Na+]
solvent | acetic acid pyridine | C(C)(=O)O.N1=CC=CC=C1
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-methyl-1H-indole-5-carbaldehyde | CC1=C2C=CNC2=CC=C1C=O | C10H9NO
